US07902191B2
Synthesis of 6-Oxo-5,6,7,8-tetrahydro-naphthalene-2-carbonitrile
See also generally Org. Prep. Proced. Int. Vol. 32, No. 1, 2000, p. 88. Charged 50 mL round bottom flask with copper(I) cyanide (1.34 g., 0.0150 moles, 1.12 eq.), 6-bromo-2-tetraline (3.0 g., 1.33 mmoles, 1.0 eq.) and 13 mL N-methylpyrrolidinone. Heated for 5 hours at 180-200° C. Allowed reaction mixture to stir at room temperature over the weekend. Transferred reaction mixture to 250 mL 3-necked, round bottomed flask fitted with a mechanical stirrer, a condenser, and an addition funnel. Added 6.0 g. Celite® and heated with stirring to 80° C. Added 70 mL water and 90 mL ethyl acetate to hot stirring reaction mixture. Turned off heat and allowed to cool overnight with stirring. The next day, filtered the reaction mixture through a Celite® pad. Partitioned off water layer from filtered reaction mixture. Washed ethyl acetate layer with water once, then washed with a 50:50 mixture of brine and water twice. Dripped organic layer through sodium sulfate to dry and removed solvents under reduced pressure to obtain 2.67 g. of light brown solid. Purified crude material via Biotage FLASH 40 L® cartridge (175 g. of silica gel) using an ethylacetate:hexane stepwise gradient. Obtained 1.77 g. (yield=78%). Product was not completely pure, but used it as is in the next reaction. H-NMR (CDCL3): 7.55 (1H, s), 7.53 (1H, d), 3.64 (2H, s), 3.12 (1H, t, J=7 Hz), 2.58 (1H, t, J=7 Hz.

reactant | copper(I) cyanide | 0.0150 moles, 1.34 g, 1.12 eq. | [Cu]C#N
reactant | N-methylpyrrolidinone | 13 mL | CN1C(CCC1)=O | C5H9NO
reactant | water | 70 mL | O | H2O
reactant | ethyl acetate | 90 mL | C(C)(=O)OCC | C4H8O2
product | 6-Oxo-5,6,7,8-tetrahydro-naphthalene-2-carbonitrile | yield=78% | O=C1CC=2C=CC(=CC2CC1)C#N | C11H9NO
